US05382379
Methoxymethyltriphenylphosphonium chloride (16.5 g) was placed in a 300 ml capacity three-neck flask, and added THF (100 ml) to obtain a suspension, followed by adding potassium-t-butoxide (6.5 g) to the suspension while keeping the temperature at -10° C. or lower, stirring the mixture at -10° C. for one hour, dropwise adding a solution of 4-(trans-4'-(3",4",5"-trifluorophenyl)cyclohexyl)cyclohexanone (10 g) in THF (80 ml) at a speed of keeping -10° C., stirring the mixture at the temperature for one hour, further stirring at room temperature for 2 hours, adding water (100 ml) after completion of the reaction, extracting three times with ethyl acetate (100 ml), washing the organic layer with water, drying over anhydrous MgSO4, concentrating under reduced pressure to obtain white solids, and isolating and purifying them according to silica gel column chromatography, to obtain 4-(trans-4'-(3",4",5"-trifluorophenyl)cyclohexyl)methoxymethylenecyclohexane (10.2 g ) (white crystals). m.p. 78.4° -81.2° C.

reactant | Methoxymethyltriphenylphosphonium chloride | 16.5 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 6.5 g | CC(C)([O-])C.[K+]
reactant | 4-(trans-4'-(3",4",5"-trifluorophenyl)cyclohexyl)cyclohexanone | 10 g | FC=1C=C(C=C(C1F)F)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C18H21F3O
reactant | water | 100 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(trans-4'-(3",4",5"-trifluorophenyl)cyclohexyl)methoxymethylenecyclohexane | 10.2 g | FC=1C=C(C=C(C1F)F)[C@@H]1CC[C@H](CC1)COC=C1CCCCC1 | C20H25F3O
